US04789396
To the suspension of 0.3 g of sodium hydride (60% oil dispersion) in 10 ml of dimethylformamide, 0.09 g of 2-butenyloxyamine hydrochloride was added under cooling with ice-water bath and then stirred. After 30 minutes, 0.21 g of 2-acetyl-5-[2-(4-trifluoromethylphenylthio)ethyl]cyclohexane-1,3-dione was added to the resulting solution which was then stirred for 7 hours under cooling with ice-water bath. The reaction solution was poured into water, acidified with dilute hydrochloric acid and extracted with ether. After removing ether, the residue was purified by thin layer chromatography (eluent, hexane:ethyl acetate=5:1) to obtain 0.22 g of 2-[1-(2-butenyloxyamino)ethylidene]5-[2-(4-trifluoromethylphenylthio)ethyl]cyclohexane-1,3-dione.

reactant | sodium hydride | 0.3 g | [H-].[Na+]
reactant | 2-butenyloxyamine hydrochloride | 0.09 g | Cl.C(C=CC)ON
reactant | 2-acetyl-5-[2-(4-trifluoromethylphenylthio)ethyl]cyclohexane-1,3-dione | 0.21 g | C(C)(=O)C1C(CC(CC1=O)CCSC1=CC=C(C=C1)C(F)(F)F)=O | C17H17F3O3S
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-[1-(2-butenyloxyamino)ethylidene]5-[2-(4-trifluoromethylphenylthio)ethyl]cyclohexane-1,3-dione | 0.22 g | C(C=CC)ONC(C)=C1C(CC(CC1=O)CCSC1=CC=C(C=C1)C(F)(F)F)=O | C21H24F3NO3S
